US07053212B2
Step A: 1-Morpholin-4-yl-3-{4-[4-(tetrahydro-pyran-2-yloxy)-benzylamino]-phenyl}-prop-2-en-1-one
To a solution of (4-iodo-phenyl)-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-amine (0.265 g, 0.65 mmol) in 2 mL dimethylformamide was added 4-acryloylmorpholine (0.110 g, 0.78 mmol), Pd(OAc)2 (0.029 g, 0.13 mmol), and triethylamine (0.20 mL, 1.43 mmol). The reaction was stirred at 90° C. for 2 hr. Triphenylphosphine (0.101 g, 0.38 mmol) and additional Pd(OAc)2 (0.032 g, 0.14 mmol) were added and the reaction mixture was stirred at 90–100° C. for 18 hr. The reaction mixture was cooled, water was added, and the aqueous solution was washed ethyl acetate (3×). The combined organic layers were dried (magnesium sulfate) and concentrated. Medium pressure silica gel chromatography (33% ethyl acetate/hexanes to 50% ethyl acetate/hexanes) afforded the title compound of Step A. MS 423.0 (M+1)+

reactant | (4-iodo-phenyl)-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-amine | 0.65 mmol, 0.265 g | IC1=CC=C(C=C1)NCC1=CC=C(C=C1)OC1OCCCC1 | C18H20INO2
reactant | 4-acryloylmorpholine | 0.78 mmol, 0.110 g | C(C=C)(=O)N1CCOCC1 | C7H11NO2
reactant | triethylamine | 1.43 mmol, 0.20 mL | C(C)N(CC)CC | C6H15N
reactant | Triphenylphosphine | 0.38 mmol, 0.101 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | Pd(OAc)2 | 0.13 mmol, 0.029 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | Pd(OAc)2 | 0.14 mmol, 0.032 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | O | H2O
product | 1-Morpholin-4-yl-3-{4-[4-(tetrahydro-pyran-2-yloxy)-benzylamino]-phenyl}-prop-2-en-1-one | N1(CCOCC1)C(C=CC1=CC=C(C=C1)NCC1=CC=C(C=C1)OC1OCCCC1)=O | C25H30N2O4
